US06933298B2
Pyrimidine-4,6-dicarboxylic Acid Dibenzylamide
1.7 g of pyrimidine-4,6-dicarboxylic acid are suspended in 20 ml of toluene and 2.4 g of thionyl chloride and 0.2 ml of dimethylformamide are added. The mixture is heated to reflux until it is no longer possible to observe any gas evolution (about 3 hours (h)). About 5 ml of solvent are distilled off and the mixture is then cooled down to from 0 C to 10° C. and 2.7 g of benzylamine, dissolved in 10 ml of toluene, are added. The solution is slowly heated to room temperature, then stirred at room temperature for 12 hours and evaporated down to dryness. The residue is taken up in 50 ml of methylene chloride and the solution is extracted 3 times by shaking with saturated sodium hydrogen carbonate solution; the organic phase is washed with water, dried with magnesium sulfate and evaporated.

reactant | pyrimidine-4,6-dicarboxylic acid | 1.7 g | N1=CN=C(C=C1C(=O)O)C(=O)O | C6H4N2O4
reactant | thionyl chloride | 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Pyrimidine-4,6-dicarboxylic Acid Dibenzylamide | C(C1=CC=CC=C1)N(C(=O)C1=NC=NC(=C1)C(=O)O)CC1=CC=CC=C1 | C20H17N3O3
